US06573289B1
Production of (1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)-(pyridin-4-yl)methanol
In a similar manner to that described in Example 6-(i), the reaction of 4-bromopyridine (0.92 ml) with (6-methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone (1.0 g) was carried out to give the titled compound (0.88 g) as a colorless solid.

reactant | 4-bromopyridine | 0.92 ml | BrC1=CC=NC=C1 | C5H4BrN
reactant | (6-methoxynaphthalen-2-yl)-(1-trityl-1H-imidazol-4-yl)ketone | 1.0 g | COC=1C=C2C=CC(=CC2=CC1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H26N2O2
product | (1H-Imidazol-4-yl)-(6-methoxynaphthalen-2-yl)-(pyridin-4-yl)methanol | 0.88 g | N1C=NC(=C1)C(O)(C1=CC=NC=C1)C1=CC2=CC=C(C=C2C=C1)OC | C20H17N3O2
